// RLC damping design - Spectre netlist (output across C)
simulator lang=spectre
global 0

// Fast voltage step on `in` (edge << circuit natural period -> ideal step)
vin (in 0) vsource type=pulse val0=0 val1=1.8 delay=2.18561e-07 rise=8.74244e-10 fall=8.74244e-10 width=3.49698e-05 period=6.99395e-05

// Series RLC. R1 is the damping resistor to size; L1 and C1 are FIXED.
l1 (in mid) inductor l=0.00022
r1 (mid out) resistor r=4904.06
c1 (out 0) capacitor c=2.2e-11

// Transient: maxstep resolves the ring, stop captures the settling tail
tran tran stop=1.74849e-05 errpreset=conservative maxstep=2.18561e-09

save in out
